US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (189 mg, 0.668 mmol), 4-(tributylstannyl)thiazole (250 mg, 0.668 mmol), CuI (32 mg, 0.17 mmol), CsF (304 mg, 2.00 mmol), and Pd(PPh3)4 (39 mg, 0.033 mmol). The vial was capped and then placed under N2 atmosphere. To the vial was added DMF (4 mL). The vial was placed in a 80° C. heating block with stirring for 1 h. The mixture was allowed to cool to room temperature. To the reaction was added 4-(tributylstannyl)thiazole (250 mg, 0.668 mmol) and Pd(PPh3)4 (10 mg, 8.9 μmol). The vial was placed under N2 atmosphere and then returned to the 80° C. with stirring for 1 h. The mixture was cooled to room temperature and the mixture was then adsorbed onto diatomaceous earth (Celite®). The resulting powder was subjected to C18 chromatography (water:MeCN, 100:0 to 0:100) to afford 4-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)thiazole as a dark amber solid (58 mg, 26%). 1H-NMR (500 MHz, CDCl3) δ 8.90 (d, J=2.2 Hz, 1H), 8.36 (d, J=2.2 Hz, 1H), 8.09 (d, J=1.7 Hz, 1H), 8.06-8.02 (m, 2H), 7.63 (d, J=1.7 Hz, 1H), 7.03-6.98 (m, 2H), 4.66 (spt, J=6.1 Hz, 1H), 1.41-1.38 (m, 6H).

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.668 mmol, 189 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | 4-(tributylstannyl)thiazole | 0.668 mmol, 250 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | CsF | 2.00 mmol, 304 mg | [F-].[Cs+]
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | 4-(tributylstannyl)thiazole | 0.668 mmol, 250 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
catalyst | CuI | 0.17 mmol, 32 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.033 mmol, 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 8.9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeCN | CC#N | C2H3N
solvent | water | O | H2O
product | 4-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)thiazole | 58 mg, 26% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C=1N=CSC1 | C17H15ClN2OS
